US07125865B2
Preparation of 7-propyl-3-(trifluoromethyl)-6-(4-bromobutyloxy)-1,2-benzisoxazole.
To a DMF solution (50 mL) of 6-hydroxy-7-propyl-3-(trifluoromethyl)-1,2-benzisoxazole as prepared in Example 4 step 2 (6.5 gram, 26.5 mmol) was added 1,4-dibromobutane (16 mL, 133 mmol), followed by cesium carbonate (9.1 grams, 27.8 mmol). The mixture was stirred at room temperature overnight. After aqueous/ether work-up and silica gel chromatography (hexanes: 2.5% ethyl acetate), the title compound was obtained.

reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
reactant | 6-hydroxy-7-propyl-3-(trifluoromethyl)-1,2-benzisoxazole | OC1=C(C2=C(C(=NO2)C(F)(F)F)C=C1)CCC | C11H10F3NO2
reactant | 1,4-dibromobutane | 133 mmol, 16 mL | BrCCCCBr | C4H8Br2
reactant | cesium carbonate | 27.8 mmol, 9.1 grams | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
product | 7-propyl-3-(trifluoromethyl)-6-(4-bromobutyloxy)-1,2-benzisoxazole | C(CC)C1=C(C=CC=2C(=NOC21)C(F)(F)F)OCCCCBr | C15H17BrF3NO2
